US05252575
3-(Ethoxymethoxy)propan-1-ol
A solution of chloroethylethyl ether (50 mmol) in dry tetrahydrofuran (10 ml) was added dropwise at 0°-5° C. to a stirred solution of 1,3-propanediol (150 mmol) in dry tetrahydrofuran (100 ml) and N,N-diisopropylethylamine (75 mmol). The mixture was stirred for 2 hours at room temperature, the solvent was evaporated in vacuo and the residue was purified by column chromatography on silica, eluting with dichloromethane:methanol (98:2) to give the title compound as a colourless oil (5.6 g, 83%); νmax (Film) 3420, 2980, 2940, 2880, 1480, 1445, 1390 and 1180 cm-1 ; δH (CDCl3) 1.20 (3H, t, J=6.5 Hz, CH3CH2), 1.8 (2H, m, CH2CH2CH2), 3.2 (1H, s, OH), 3.6 (6H, m, CH2OH, CH2O and CH3CH2), 4.8 (2H, s, OCH 2 O).

reactant | chloroethylethyl ether | 50 mmol | ClCCOCC | C4H9ClO
reactant | 1,3-propanediol | 150 mmol | C(CCO)O | C3H8O2
reactant | N,N-diisopropylethylamine | 75 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(Ethoxymethoxy)propan-1-ol | 5.6 g, 83% | C(C)OCOCCCO | C6H14O3
